US05834506
Toluene-4-thiosulfonic acid S-[2-tert-butyl-4-(4-cyano-benzenesulfonylamino)-5-methyl-phenyl] ester
A solution of toluene-4-thiosulfonic acid S-(4-amino-2-tert-butyl-5-methyl-phenyl) ester obtained from Example HHHH (0.20 g, 0.57 mmol), 4-cyanobenzenesulfonyl chloride (0.15 g, 0.74 mmol), pyridine (7 mL) and CH2Cl2 (1 mL) was stirred at room temperature under nitrogen overnight. 1N HCl was then added and the mixture was extracted with EtOAc. The organic phase was washed with 1N HCl and brine, dried (Na2SO4), filtered and concentrated. The resulting residue was flash chromatographed on silica gel, eluting with 19:1 CHCl3 :EtOAc to afford the title compound. 1H NMR (CDCl3) δ 1.16 (s, 9 H), 1.98 (s, 3 H), 2.43 (s, 3 H), 6.49 (s, 1 H), 7.23 (s, 1 H), 7.27 (d, partially obscured by CDCl3, 2 H), 7.48 (d, 2 H), 7.78 (d, 2 H), 7.87 (d, 2 H).

reactant | toluene-4-thiosulfonic acid S-(4-amino-2-tert-butyl-5-methyl-phenyl) ester | NC1=CC(=C(C=C1C)SS(=O)(=O)C1=CC=C(C=C1)C)C(C)(C)C | C18H23NO2S2
reactant | 4-cyanobenzenesulfonyl chloride | 0.74 mmol, 0.15 g | C(#N)C1=CC=C(C=C1)S(=O)(=O)Cl | C7H4ClNO2S
reactant | pyridine | 7 mL | N1=CC=CC=C1 | C5H5N
reactant | HCl | 1N | Cl | ClH
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | Toluene-4-thiosulfonic acid S-[2-tert-butyl-4-(4-cyano-benzenesulfonylamino)-5-methyl-phenyl] ester | C(C)(C)(C)C1=C(C=C(C(=C1)NS(=O)(=O)C1=CC=C(C=C1)C#N)C)SS(=O)(=O)C1=CC=C(C=C1)C | C25H26N2O4S3
